US04186199
A stirred mixture, under N2, of 24.3 g (0.09 mole) of 1,2-dihydro-6-methylindolo[1,7-ab][1,5]benzodiazepine hydrochloride and 200 ml of absolute ethanol is cooled to 0° C. Then sodium borohydride is added in small portions and at such a rate as to minimize foaming and to maintain the reaction below 10° C. A total of 4.0 g of NaBH4 is added, 3.4 g to discharge the initial purple color, 0.6 g more to insure completeness of reduction. After 2 hours more at ambient temperature, water is added in portions to decompose excess reagent and to maximize precipitation of product. The solid is collected, washed repeatedly with water, and dried to yield product with m.p. 127°-134° C. Recrystallization from 75 ml of benzene (charcoal) afforded 6-methyl-1,2,6,7-tetrahydroindolo-[1,7-ab][1,5]benzodiazepine, m.p. 134°-136° C.

reactant | 1,2-dihydro-6-methylindolo[1,7-ab][1,5]benzodiazepine hydrochloride | 0.09 mole, 24.3 g | Cl.CC=1C2=C3N(C4=C(N1)C=CC=C4)CCC3=CC=C2
reactant | ethanol | 200 ml | C(C)O | C2H6O
reactant | sodium borohydride | [BH4-].[Na+]
reactant | NaBH4 | 4.0 g | [BH4-].[Na+]
solvent | water | O | H2O
product | 6-methyl-1,2,6,7-tetrahydroindolo-[1,7-ab][1,5]benzodiazepine | CC1C2=C3N(C4=C(N1)C=CC=C4)CCC3=CC=C2 | C16H16N2
